US07265246B2
Mix and suspend 3-thiazol-2-yl-acrylic acid (580 mg, 3.74 mmol) and 5% Pd/C (270 mg) in ethanol (200 mL). Purge the mixture with nitrogen. Then purge with hydrogen for 30 minutes and stir under 1 atmosphere of hydrogen for 6 hours. Filter the reaction mixture through Celite® and wash the filter cake with additional ethanol. Concentrate the filtrate to afford 550 mg (94%) of 3-thiazol-2-yl-propionic acid as a white solid. MS: m/e=158 (MH+).

reactant | 3-thiazol-2-yl-acrylic acid | 3.74 mmol, 580 mg | S1C(=NC=C1)C=CC(=O)O | C6H5NO2S
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | Pd/C | 270 mg | [Pd] | Pd
product | 3-thiazol-2-yl-propionic acid | 550 mg, 94% | S1C(=NC=C1)CCC(=O)O | C6H7NO2S
